US07217711B2
6-chloromethyl-2,3,8-trimethyl-quinoxaline-hydrochloride
Prepared by treating (2,3,8-trimethyl-quinoxalin-6-yl)-methanol with thionyl chloride in methylene chloride.

reactant | (2,3,8-trimethyl-quinoxalin-6-yl)-methanol | CC1=NC2=C(C=C(C=C2N=C1C)CO)C | C12H14N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-chloromethyl-2,3,8-trimethyl-quinoxaline-hydrochloride | Cl.ClCC=1C=C2N=C(C(=NC2=C(C1)C)C)C | InChI=1S/C12H13ClN2.ClH/c1-7-4-10(6-13)5-11-12(7)15-9(3)8(2)14-11;/h4-5H,6H2,1-3H3;1H
